US05166204
4.0 g of 2-(1-hydroxy-1-methylethyl)-1-methylindole was dissolved in 80 ml of toluene. Thereto was added 200 mg of p-toluenesulfonic acid monohydrate. The mixture was azeotropically refluxed for 2 hours. The reaction mixture was cooled to room temperature, washed with an aqueous saturated sodium hydrogencarbonate solution and an aqueous saturated sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography (eluant: n-hexane/toluene=1/0 to 20/1) to obtain 850 mg (yield: 24%) of 2-isopropenyl-1-methylindole as a light yellow oily material.

reactant | 2-(1-hydroxy-1-methylethyl)-1-methylindole | 4.0 g | OC(C)(C)C=1N(C2=CC=CC=C2C1)C | C12H15NO
reactant | p-toluenesulfonic acid monohydrate | 200 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 2-isopropenyl-1-methylindole | 850 mg, yield: 24% | C(=C)(C)C=1N(C2=CC=CC=C2C1)C | C12H13N
